US08541457B2
Synthesis of 2-(Cyclobutanecarbonylamino)-4-methylthiazole-5-carboxylic acid benzylamide
Following the procedure as described in Example 2, making variations only as required to use cyclobutanecarbonyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 46% yield; 1H NMR (DMSO-ds, 300 MHz) δ 7.38-7.25 (m, 4H), 5.96 (s, br, 1H), 4.58-4.50 (m, 2H), 3.25-3.14 (m, 1H), 2.53 (s, 3H), 2.42-1.90 (m, 6H); MS (ES+) m/z 330.0 (M+1).

reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(Cyclobutanecarbonylamino)-4-methylthiazole-5-carboxylic acid benzylamide | 46% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)C1CCC1)C | C17H19N3O2S
